US07776910B2
A solution of tetrabutylammoniumfluoride (1.0 M in THF, 9.3 mL) was added to a solution of 3-[2-methoxy-4-(2-trimethylsilanyl-ethylsulfanyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (0.380 g, 0.9275 mmol) in THF (5 mL) and the reaction mixture was stirred at room temperature for 30 minutes. A solution of 10% KHSO4/Na2SO4 was added and the resulting mixture was extracted 3 times with EtOAc. The combined organic extracts were washed with water and brine; and then dried over Na2SO4. The solvent was evaporated under reduced pressure and the crude material was purified via flash chromatography (hexane/EtOAc/AcOH, 80/20/0.1) to give 0.178 g (62% yield) of 3-(4-mercapto-2-methoxy-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester as a clear oil.

reactant | tetrabutylammoniumfluoride | 1.0 M, 9.3 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 3-[2-methoxy-4-(2-trimethylsilanyl-ethylsulfanyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.9275 mmol, 0.380 g | C(C)(C)(C)OC(=O)N1CC(CC1)C1=C(C=C(C=C1)SCC[Si](C)(C)C)OC | C21H35NO3SSi
reactant | KHSO4 Na2SO4 | OS(=O)(=O)[O-].[K+].[O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(4-mercapto-2-methoxy-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.178 g, 62% yield | C(C)(C)(C)OC(=O)N1CC(CC1)C1=C(C=C(C=C1)S)OC | C16H23NO3S
